US04564685
A mixture of 3-bromo-4'-methoxybenzophenone (Allen, Schumann, Day and Van Campen, J. Amer. Chem. Soc., 1958, 80, 591) (14.6 g), ethyl acrylate (25.3 g), palladium (II) acetate (100 mg), triphenylphosphine (225 mg) and triethylamine (2.65 g) in acetonitrile (20 mL) was heated in a stainless steel autoclave under a nitrogen atmosphere at 155° for 5 hours. After cooling, water was added and the precipitated solid was recrystallized from methanol to yielded ethyl 3-(4-methoxy benzoyl)cinnamate, m.p. 71°-71.5° (5.6 g).

reactant | 3-bromo-4'-methoxybenzophenone | 14.6 g | BrC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=CC1 | C14H11BrO2
reactant | ethyl acrylate | 25.3 g | C(C=C)(=O)OCC | C5H8O2
reactant | triphenylphosphine | 225 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.65 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 100 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | ethyl 3-(4-methoxy benzoyl)cinnamate | COC1=CC=C(C(=O)C=2C=C(C=CC(=O)OCC)C=CC2)C=C1 | C19H18O4
